.SUBCKT DFFX1H7R CK D Q QN VDD VSS
*.PININFO CK:I D:I Q:O QN:O VDD:B VSS:B
XI2 net46 CKP CKN VDD VSS net33 / TSINV pl=6E-08 pw=1.5E-07 nl=6E-08 nw=1.5E-07
XXI6 D CKN CKP VDD VSS net33 / TSINV pl=6E-08 pw=2.8E-07 nl=6E-08 nw=2E-07
XI3 net46 CKP CKN VDD VSS net25 / TSINV pl=6E-08 pw=3E-07 nl=6E-08 nw=2.2E-07
XI4 net9 CKN CKP VDD VSS net25 / TSINV pl=6E-08 pw=1.5E-07 nl=6E-08 nw=1.5E-07
XI1 net33 VDD VSS net46 / INV pl=6E-08 pw=2.8E-07 nl=6E-08 nw=2E-07
XI0 CKN VDD VSS CKP / INV pl=6E-08 pw=2.8E-07 nl=6E-08 nw=2E-07
XXI12 net25 VDD VSS Q / INV pl=6E-08 pw=3E-07 nl=6E-08 nw=2.4E-07
XXI10 net25 VDD VSS net9 / INV pl=6E-08 pw=3E-07 nl=6E-08 nw=2.2E-07
XI5 net9 VDD VSS QN / INV pl=6E-08 pw=3E-07 nl=6E-08 nw=2.4E-07
XXI4 CK VDD VSS CKN / INV pl=6E-08 pw=2.8E-07 nl=6E-08 nw=2E-07
.ENDS
