.SUBCKT EDFFQX0P5H7R CK D E Q VDD VSS
*.PININFO CK:I D:I E:I Q:O VDD:B VSS:B
XXI18 net32 net24 net030 net33 VDD VSS / TG pl=60n pw=280n nl=60n nw=200n
XXI14 net46 net24 net32 VDD VSS net33 / TSINV pl=60n pw=150n nl=60n nw=150n
XXI17 D E net057 VDD VSS net030 / TSINV pl=60n pw=280n nl=60n nw=200n
XXI19 net9 net057 E VDD VSS net030 / TSINV pl=60n pw=280n nl=60n nw=200n
XXI9 net46 net24 net32 VDD VSS net25 / TSINV pl=60n pw=280n nl=60n nw=200n
XXI15 net9 net32 net24 VDD VSS net25 / TSINV pl=60n pw=150n nl=60n nw=150n
XXI20 E VDD VSS net057 / INV pl=60n pw=280n nl=60n nw=200n
XXI7 net33 VDD VSS net46 / INV pl=60n pw=280n nl=60n nw=200n
XXI13 net32 VDD VSS net24 / INV pl=60n pw=280n nl=60n nw=200n
XXI12 net25 VDD VSS Q / INV pl=60n pw=280n nl=60n nw=200n
XXI10 net25 VDD VSS net9 / INV pl=60n pw=280n nl=60n nw=200n
XXI4 CK VDD VSS net32 / INV pl=60n pw=280n nl=60n nw=200n
.ENDS
