.SUBCKT FILLCAP8H7R VDD VSS
*.PININFO VDD:B VSS:B
MMM0 net7 net5 VDD VDD pm1p2_svt_lp W=300n L=1.18u m=1
MMM1 net5 net7 VSS VSS nm1p2_svt_lp W=200n L=1.18u m=1
.ENDS
